Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
right lower extremity erythema, fever, nausea 
 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
___ yo M with hx of mitral valve prolapse s/p mitral valve repair 
who presents with right lower extremity erythema after insect 
bite, fever, and nausea x 3 days. 
. 
Patient reports that on early ___ morning he felt an insect 
bite on his right lower extremity. He did not see the insect. 
Soon after he developed a 10cm area of erythema and warmth with 
bullseye appearance. He area was reportedly initially painful 
and he was treating it with topical bacitracin and 
hydrocortisone cream without improvement. The following evening 
he developed subjective fevers and chills. Also reports mild 
headache, dizziness (described as room spinning), and nausea 
without vomiting. On morning of presentation he noticed that his 
right groin was swollen and red at which point he went to the ED 
for evaluation. 
.
In the ED initial vital signs were 100 77 115/95 20 100%. He was 
given tylenol, vancomycin and ceftriaxone for cellulitis and 
concern for disseminated lyme. His ECG showed normal sinus 
rhythm rsr' in v1/v2. His vitals upon transfer were ___- 
105/75- 98%.
.
Currently, patient has mild headache and otherwise no further 
complaints. Dizziness has somewhat improved.

 
Past Medical History:
1. s/p Mitral valve repair ___ c/b post-op AF/fl, pericarditis
2. paroxysmal atrial fibrillation 
 
Social History:
___
Family History:
father - alive, with CAD s/p CABG
mother - alive, has Afib and hx of breast cancer 
brother - alive, hx of CAD
 
 
Physical Exam:
admission exam 
VS - Temp ___, BP 100/51, HR 66, R 20, O2-sat 98% RA  
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no JVD, no carotid bruits  
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - 10 cm erythematous lesion over right lateral ankle with 
bullseye appearance. small erythematous area noted in R. groin 
LYMPH - no cervical lymphadenopathy, 2cm tender lymphadenopathy 
in R. groin 
NEURO - awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric, gait deferred 
.
discharge exam 
VS: 98.3 94/50-118/81 53-70 16 100% RA
GENERAL - well-appearing man in NAD, comfortable, appropriate  
HEENT - EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple 
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use  
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - 10 cm erythematous lesion over right lateral ankle that 
remains unchanged in size. small erythematous area noted in R. 
groin has now resolved  
LYMPH - no cervical lymphadenopathy, R. inguinal lymphadenopathy 
less prominent but still tender 
NEURO - awake, A&Ox3
 
Pertinent Results:
admission labs 
___ 10:40AM BLOOD WBC-6.7 RBC-4.67 Hgb-14.8 Hct-42.2 MCV-91 
MCH-31.8 MCHC-35.1* RDW-12.5 Plt ___
___ 10:40AM BLOOD Neuts-76.3* Lymphs-17.3* Monos-5.5 
Eos-0.2 Baso-0.8
___ 11:03AM BLOOD ___ PTT-26.1 ___
___ 10:40AM BLOOD Glucose-111* UreaN-19 Creat-1.0 Na-138 
K-3.8 Cl-101 HCO3-28 AnGap-13
___ 10:40AM BLOOD ALT-15 AST-22 LD(LDH)-186 AlkPhos-49 
TotBili-1.6*
___ 07:35AM BLOOD Calcium-8.8 Phos-2.6* Mg-1.8
___ 10:40AM BLOOD Hapto-122
. 
discharge labs: 
___ 08:05AM BLOOD WBC-4.1 RBC-4.40* Hgb-13.7* Hct-39.7* 
MCV-90 MCH-31.2 MCHC-34.5 RDW-12.5 Plt ___
___ 08:05AM BLOOD Glucose-107* UreaN-11 Creat-0.9 Na-139 
K-3.2* Cl-103 HCO3-28 AnGap-11
___ 08:05AM BLOOD Calcium-8.8 Phos-2.4* Mg-1.9
.
urine
___ 04:51PM URINE Color-Yellow Appear-Clear Sp ___
___ 04:51PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 04:51PM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 04:51PM URINE Mucous-OCC
. 
micro: 
blood cultures x 3 pending at discharge - NGTD
.
studies 
ECG (admission): Sinus rhythm. RSR' pattern in lead VI. No 
diagnostic interval change compared
to the previous tracing.
. 
CXR: 
There is stable cardiomegaly.  Median sternotomy wires are seen. 
 There is no
focal consolidation, pleural effusions, or signs for pulmonary 
edema.  The
bony structures are intact.
IMPRESSION: No acute cardiopulmonary process.
 
Brief Hospital Course:
___ yo M with hx of MVP s/p mitral valve repair who presented 
with new right lower extremity lesion, fever, and nausea. 

# right lower extremity cellulitis with lymphadenitis - Patients 
presented with right lower extremity skin lesion, fever to 102, 
and nausea after reported insect bite on ___. He was also 
found to have right inguinal lymphadenopathy and erythema. The 
skin lesion had ring-like appearance initially concerning for 
lyme disease, however the time course was not consistent with 
lyme and the lesion did not have the classic central clearing.  
In the ED he was given vancomycin and ceftriaxone. On the floor 
he was started on IV vancomycin with doxycycline. After clinical 
improvement and negative cultures for 48 hours, he was 
transitioned to an oral regimen of doxycycline and augmentin. 
Patient was noted to have a penicillin allergy however he could 
not recall the reaction he had as a child and he has 
subsequently tolerated amoxicillin multiple times. Patient was 
administered augmentin in house without evidence of reaction. He 
was discharged with plans to complete a 10 day course of 
augmentin and doxycycline for his cellulitis with scheduled PCP 
follow up. 

# paroxysmal Afib - continued aspirin. 
  
transitional issues
- blood cultures pending at time of discharge 
 
Medications on Admission:
amoxicillin 500 mg Capsule 4 Capsule(s) by mouth once as needed 
for 1 hour prior to procedure
clindamycin phosphate 1 % Gel apply to affected area three times 
a day  
epinephrine [EpiPen] 0.3 mg/0.3 mL (1:1,000) Pen Injector 
use as directed daily as needed for bee sting   
aspirin 81 mg Tablet one Tablet by mouth once a day (OTC)   
niacin (unknown dose) 
 
Discharge Medications:
1. Niacin 100 mg PO TID 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 875 mg-125 mg twice daily Disp 
#*17 Capsule Refills:*0
3. Doxycycline Hyclate 100 mg PO Q12H 
RX *doxycycline hyclate 100 mg twice daily Disp #*17 Capsule 
Refills:*0
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen 325-650 mg PO Q6H:PRN pain/fever 
please notify ___ if giving for fever 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: cellulitis, lymphadenitis 
Secondary diagnosis: paroxysmal atrial fibrillation 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___, 

It was a pleasure caring for you while you were admitted to the 
hospital. You were admitted because you were found to have a 
skin infection, fever, and nausea. You were treated with 
antibiotics and clinically improved. 
. 
The following changes have been made to your medication regimen. 

Please START taking
- doxycycline 100 mg twice daily to complete 10 days (last day 
___
- augmentin 875 mg twice daily to complete 10 days (last day 
___

Please take the rest of your medications as prescribed and 
follow up with your doctors as ___. 
 
Followup Instructions:
___